US07875645B2
rac-2-(2-Ethyl-phenyl)-propionitrile was prepared from (2-ethyl-phenyl)-acetonitrile and methyl iodide in analogy to Example 65a): light-yellow liquid; MS (EI): 159.1 (M+.).

reactant | (2-ethyl-phenyl)-acetonitrile | C(C)C1=C(C=CC=C1)CC#N | C10H11N
reactant | methyl iodide | CI | CH3I
product | rac-2-(2-Ethyl-phenyl)-propionitrile | C(C)C1=C(C=CC=C1)C(C#N)C | C11H13N
